US04797489
Tricyclo[3.3.1.13,7 ]decane-1-carboxylic acid 3-[4-[bis(4-fluorophenyl)methylene]-1-piperidinyl]propyl ester
To a stirred solution of 3-bromopropanol (5.5 g, 0.04 mol) in 50 mL of methylene chloride, adamantane-1-carboxylic acid chloride (5.6 g, 0.02 mol) and triethylamine (4 g, 0.04 mol) were added. The reaction mixture was stirred at room temperature overnight, the methylene chloride was washed with water, dried over anhydrous Na2SO4 and removed under reduced pressure to afford 12 g of the intermediate adamantane-1-carboxylic acid bromopropyl ester. The title compound was prepared by stirring 4-[bis(4-fluorophenyl)-methylene]piperidine (2 g, 0.07 mol), adamantane-1-carboxylic acid bromo-propyl ester (2.1 g, 0.007 mol) and triethylamine (1 g, 0.01 mol) in 50 mL of CH2Cl2 for 24 hours. The methylene chloride was washed with water, dried (anhydrous Na2SO4) and removed under reduced pressure. The remaining residue was subjected to preparative HPLC over silica gel using ethylacetate as the eluent and the desired product (TLC Rf =0.7 in 30% ethanol/ethylacetate system) was separated and converted to the hydrochloride salt (0.6 g, 16% yield), mp. 267°-269° C.

reactant | 4-[bis(4-fluorophenyl)-methylene]piperidine | 0.07 mol, 2 g | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | C18H17F2N
reactant | adamantane-1-carboxylic acid bromo-propyl ester | 0.007 mol, 2.1 g | BrCCCOC(=O)C12CC3CC(CC(C1)C3)C2 | C14H21BrO2
reactant | triethylamine | 0.01 mol, 1 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Tricyclo[3.3.1.13,7 ]decane-1-carboxylic acid 3-[4-[bis(4-fluorophenyl)methylene]-1-piperidinyl]propyl ester | FC1=CC=C(C=C1)C(=C1CCN(CC1)CCCOC(=O)C12CC3CC(CC(C1)C3)C2)C2=CC=C(C=C2)F | C32H37F2NO2
